* Other math operations

.SUBCKT saturation in out
+PARAMS: MAX=100 MIN=100

B_SAT out 0 V={IF(V(in)>MAX, MAX, IF(V(in)<MIN, MIN, V(in)))}
R_SAT out 0 1e7

.ENDS saturation

.SUBCKT gain in out
+PARAMS: GAIN=1

B_GAIN out 0 V={GAIN*V(in)}
R_GAIN out 0 1e7

.ENDS gain

.SUBCKT abs in out

B_ABS out 0 V={abs(V(in))}
R_ABS out 0 1e7

.ENDS abs
