* Trigonometric functions

.SUBCKT sin in out

B_TRIG out 0 V={SIN(V(in)/180*3.14159265359)}
R_TRIG out 0 1e7

.ENDS sin

.SUBCKT cos in out

B_TRIG out 0 V={COS(V(in)/180*3.14159265359)}
R_TRIG out 0 1e7

.ENDS cos

.SUBCKT tan in out

B_TRIG out 0 V={TAN(V(in)/180*3.14159265359)}
R_TRIG out 0 1e7

.ENDS tan

* Inverted functions may present some convergence problems (1e-5 used)

.SUBCKT asin in out

B_TRIG out 0 V={ASIN(V(in)+1e-5)*180/3.14159265359}
R_TRIG out 0 1e7

.ENDS asin

.SUBCKT acos in out

B_TRIG out 0 V={ACOS(V(in)+1e-5)*180/3.14159265359}
R_TRIG out 0 1e7

.ENDS acos

.SUBCKT atan in out

B_TRIG out 0 V={ATAN(V(in)+1e-5)*180/3.14159265359}
R_TRIG out 0 1e7

.ENDS atan
