* Sum

.SUBCKT p_meas in_p in_n out_p out_n

I_MEAS out_p out_n 0
V_MEAS in_p out_p 0

B_POWER p_meas 0 V={V(in_p,in_n)*I(V_MEAS)}
R_POWER p_meas 0 1e7

.ENDS p_meas
