* PSpice Model Editor - Version 16.2.0

*$

* LM5113

*****************************************************************************

*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.

*****************************************************************************

** This model is designed as an aid for customers of Texas Instruments.

** TI and its licensors and suppliers make no warranties, either expressed

** or implied, with respect to this model, including the warranties of

** merchantability or fitness for a particular purpose.  The model is

** provided solely on an "as is" basis.  The entire risk as to its quality

** and performance is with the customer

*****************************************************************************

*

** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.

* Part: LM5113

* Date: 14AUG2018

* Model Type: TRANSIENT

* Simulator: PSPICE

* Simulator Version: 16.0.0.p001

* EVM Order Number:

* EVM Users Guide:

* Datasheet:

*

* Model Version: Final 4.20

*

*****************************************************************************

*

* Updates: 4.0 changed internal switch off resistance for convergence and CL, EPC

* compatibility

* 4.1 changed the diode models used for bootstrap so VSW goes low during td

* 4.2 added RC delay for internal clamp of switch VDD to HB

*
* Final 4.2

* Release to Web.

*

*****************************************************************************

.SUBCKT LM5113_TRANS HOH HOL HB HI HS LI LOH LOL VDD VSS PARAMS:  thplh=28n

+ tlphl=26.5n thphl=26.5n tlplh=28n

E_E9         N16666738 0 HS 0 1
R_R8         VDD N16589880  0.02
M_M1         N16539524 N16539498 HOH HOH NMOS01
C_C6         HOL N16546363  20p
V_V8         N16666632 N16666738 5.3
V_V9         N16663591 0 0.2
C_C7         N16590598 N16590570  20p
R_R9         N16552085 N16590570  100
R_R4         HB N16539524  0.02
E_E6         HI_ON VSS N16672504 VSS 1
M_M4         N16590598 N16590570 LOL LOL PMOS01
V_V6         N16664106 0 3.8
X_U3         N16504353 N16504721 UVLOLOW AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=.5
E_E5         LO_ON VSS N16553845 VSS 1
E_E1         N16539492 HOH VALUE { IF(V(HI_ON, 0) > 0.5, 5, -5) }
X_U2         N16504357 N16504353 UVLOHI AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=.5
E_E4         N16548656 LOH VALUE { IF(V(LO_ON, 0) > 0.5, 5, -5) }
E_E7         N16664150 0 VDD VSS 1
R_R6         N16546407 HS  0.02
X_U11         UVLOHI N16672504 BUFFER_PS PARAMS: VHI=1 VLO=0 VTHRESH=500E-3
+  TPLH={Thplh-4n} TPHL={Thphl-4n} TR=1E-9 TF=1E-9
E_E2         HOL N16546337 VALUE { IF(V(HI_ON, 0) > 0.5, -5, 5) }
M_M3         N16589880 N16589854 LOH LOH NMOS01
R_R3         N16539492 N16539498  50
E_E3         LOL N16552085 VALUE { IF(V(LO_ON, 0) > 0.5, -5, 5) }
V_V3         N16504661 VSS 1.8
R_R7         N16548656 N16589854  50
R_R10         N16590598 VSS  0.02
C_C3         HOH N16539498  10p
R_R1         VSS LI  200k
C_C1         N16539498 N16539524  10p
V_V1         N16504493 VSS 1.8
V_V7         N16664112 0 0.2
X_U5         HI N16504661 N16504667 N16504357 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U15         N16666632 N16667565 N16663591 CLAMP COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
X_U12         UVLOLOW N16553845 BUFFER_PS PARAMS: VHI=1 VLO=0 VTHRESH=500E-3
+  TPLH={Thplh-2n} TPHL={Thphl-2n} TR=1E-9 TF=1E-9
V_V4         N16504667 0 0.4
E_E8         N16667565 0 HB 0 1
C_C2         N16546407 N16546363  20p
X_U10         LI N16504493 N16504499 N16504721 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
R_R2         VSS HI  200k
X_U14         N16664150 N16664106 N16664112 N16504353 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
M_M2         N16546407 N16546363 HOL HOL PMOS01
R_R5         N16546337 N16546363  100
X_S1    CLAMP 0 N16505073 VDD LM5113_TRANS_S1
X_U6         N16505073 HB d_d1 PARAMS:
V_V2         N16504499 0 0.4
C_C5         LOH N16589854  10p
C_C4         N16589854 N16589880  10p
C_C8         LOL N16590570  20p
C_C12         HB VSS  1n
.ENDS

.subckt LM5113_TRANS_S1 1 2 3 4
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1.0 Voff=.25 Von=.75
.ends LM5113_TRANS_S1


*$

.subckt d_d1 1 2

d1 1 2 dd1

.model dd1 d

+ is=1e-015

+ tt=1e-011

+ rs=1

+ n=0.05

.ends d_d1

*$

.model PMOS01 pmos

+ vto=-2

+ kp=1.11

+ lambda=0.001



.model NMOS01 nmos

+ vto=2

+ kp=0.267

+ lambda=0.001



.subckt d_d 1 2

d1 1 2 dd

.model dd d

+ is=1e-015

+ n=0.01

+ rs=0.01

+ tt=1e-011

.ends d_d





.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5

EIN INP1 INM1 INP INM 1

EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }

EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }

R1 OUT 1 1

C1 1 0 5n

RINP1 INP1 0 1K

.ENDS COMPHYS_BASIC_GEN

*$

.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &

+ V(B) > {VTHRESH},{VDD},{VSS})}}

RINT YINT Y 1

CINT Y 0 1n

.ENDS AND2_BASIC_GEN

*$

.SUBCKT INVERTER IN OUT

EOUT OUT1 0 VALUE { IF( V(IN)<0.5,1,0) }

R1 OUT1 OUT 1

C1 OUT 0 10p

.ends INVERTER

*$

.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,

+ {VSS},{VDD})}}

RINT YINT Y 1

CINT Y 0 1n

.ENDS INV_BASIC_GEN

*$

.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n

E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,

+ {VDD},{VSS})}}

RINT YINT1 YINT2 1

CINT YINT2 0 {DELAY*1.3}

E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,

+ {VDD},{VSS})}}

RINT2 YINT3 Y 1

CINT2 Y 0 1n

.ENDS BUF_DELAY_BASIC_GEN

*$

.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |

+ V(B) > {VTHRESH},{VDD},{VSS})}}

RINT YINT Y 1

CINT Y 0 1n

.ENDS OR2_BASIC_GEN

*$

.SUBCKT BUFFER_PS A Y PARAMS: vhi=1 vlo=0 vthresh=500e-3 tplh=1e-9 tphl=1e-9 tr=1e-9 tf=1e-9

RA A 0 1e11

CA A 0 0.01pF

VS VSUP 0 DC 1

EBUF1 Ypp 0 VALUE={IF(V(A) > vthresh, 1, 0)}

ROUTpp Ypp 0 1e11

XNSW1 OUTp Ypp 0 NSW_PS PARAMS: RONval={(tplh+1e-15)/(1e-12*0.693)} VTHval=0.5

XPSW1 OUTp Ypp VSUP PSW_PS PARAMS: RONval={(tphl+1e-15)/(1e-12*0.693)} VTHval=0.5

CDEL1 OUTp 0 1pF

ETHRESH Yp 0 VALUE={IF(V(OUTp) > 0.5, 1, 0)}

ROUTp Yp 0 1e11

XNSW2 OUTr Yp 0 NSW_PS PARAMS: RONval={(tf+1e-15)/(1e-12*2.3)} VTHval=0.5

XPSW2 OUTr Yp VSUP PSW_PS PARAMS: RONval={(tr+1e-15)/(1e-12*2.3)} VTHval=0.5

CDEL2 OUTr 0 1pF

EOUT OUTf 0 VALUE={V(OUTr)*(vhi - vlo)+vlo}

RDR OUTf Y  1000

RO Y 0 1e11

.ENDS BUFFER_PS

*$

.SUBCKT NSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF CSval=0.01pf

RDDUM D 0 1e11

RSDUM S 0 1e11

RGDUM G 0 1e11

CG G D {CGval}

CD D S {CDval}

CS G S {CSval}

***EEXP F1 0 VALUE={LIMIT(((V(G,S)-VTHval)/VCHARval),-80,80)}

Etest test 0 VALUE={IF(V(D) > V(S), V(G,S), V(G,D))}

GOUT D S VALUE={V(D,S)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}

.ENDS NSW_PS

*$

.SUBCKT PSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF

RDDUM D 0 1e11

RSDUM S 0 1e11

RGDUM G 0 1e11

CG G D {CGval}

CD D S {CDval}

Etest test 0 VALUE={IF(V(S) > V(D), V(S,G), V(D,G))}

GOUT S D VALUE={V(S,D)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}

.ENDS PSW_PS

*$

.SUBCKT FALLING_DELAY IN OUT PARAMS: DELAY=100n VDD=1 VSS=0 VTHRESH=0.5

X_U1         INT OUT BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH=

+ {VTHRESH}

R_R1         IN INT  {DELAY/(0.693 * 1E-9)}

C_C1         0 INT  1n

D_D1         IN INT DD

.MODEL DD D( IS=1F N=0.01 TT = 10p )

.ENDS FALLING_DELAY

*$

.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,

+ {VDD},{VSS})}}

RINT YINT Y 1

CINT Y 0 1n

.ENDS BUF_BASIC_GEN

*$

.subckt generic_driver c Vdd Vss Vssin out
.param Imax=3A
.param Vuvl = 9V
.param IQ = 1mA
.param Tdelay = 30ns
**************************
.param Vddrated = 12V
.param VTs = 2V
.param Rdelay=100
.param Cdelay={Tdelay/Rdelay/0.69}
.model NMOS NMOS (LEVEL=1 VTO={VTs} KP={2*Imax/(Vddrated-VTs)/(Vddrated-VTs)})
.model PMOS PMOS (LEVEL=1 VTO={-VTs} KP={1.4*Imax/(Vddrated-VTs)/(Vddrated-VTs)})
**************************
M2 out gate Vss Vss NMOS; output power-stage PMOS
M1 out gate Vdd Vdd PMOS; output power-stage NMOS
B1 gate Vss V={IF(V(cdelayed)-V(Vss)>2.5 & V(Vdd)-V(Vss)>Vuvl, 0, V(Vdd)-V(Vss))} smoothbsrc=1
+ rcconst = {1e-7}
Ibias Vdd Vss {IQ}; bias current sink
E1 cisolated Vss c Vssin 1; controlled source models isolation between control input and driver output
R1 cisolated cdelayed {Rdelay}; RC delay model
C1 cdelayed Vss {Cdelay}; RC delay model
.ends generic_driver
