*
*****************************************************
*             Model of 2SK2394 (rank=6) rev.3       *
*                    package: CP                    *
*****************************************************
*                                                   *
*                   J-FET Model                     *
*                                                   *
*             EXTERNAL PINS DESCRIPTION:            *
*                                                   *
*                 PIN 1 -> Source                   *
*                 PIN 2 -> Drain                    *
*                 PIN 3 -> Gate                     *
*                                                   *
*                DATE:  May. 7, 2018                *
*****************************************************
* MODELLING FOR 2SK2394 (:rank=6)

.SUBCKT 2SK2394CP6  2 3 1
LL3    3  31       0.4n
J1    22  31  12   2SK23946
LW2   22  21       0.6n
LL2   21   2       0.7n
CP1   11  31       0.1p
CP2   21  31       0.1p
LW1   12  11       0.6n
LL1   11   1       0.7n

.MODEL 2SK23946 NJF(BETA=0.032 VTO=-0.73 LAMBDA=0.055
+ RD=7.5 RS=8.0 IS=0.962f CGS=6.50p CGD=6.50p M=0.33 PB=0.6
+ FC=0.5 N=1.016 )

.ENDS 2SK2394CP6
* END OF MODELLING


*
*****************************************************
*             Model of 2SK3557 (rank=7)             *
*                    package: CP                    *
*****************************************************
*                                                   *
*                   J-FET Model                     *
*                                                   *
*             EXTERNAL PINS DESCRIPTION:            *
*                                                   *
*                 PIN 1 -> Source                   *
*                 PIN 2 -> Drain                    *
*                 PIN 3 -> Gate                     *
*                                                   *
*                DATE:  Sep. 27, 2017               *
*                                                   *
*                   ON Smiconductor                 *
*****************************************************
* MODELLING FOR 2SK3557 (:rank=7)

.SUBCKT 2SK3557CP7  2 3 1
LL3    3  31       0.524n
J1    21  31  12   2SK35577
LL2   21   2       0.132n
CP1   11  31       0.074p
CP2   21  31       0.074p
LW1   12  11       0.132n
LL1   11   1       0.924n

.MODEL 2SK35577 NJF(BETA=0.026 VTO=-1.04 LAMBDA=0.038
+ RD=5.6 RS=6.5 IS=0.558f CGS=7.62p CGD=7.62p M=0.33 PB=0.6
+ FC=0.5 N=1.016 )

.ENDS 2SK3557CP7
* END OF MODELLING

*$
******** Power JFET Electrical Model Parameters *********
** Product: PN4093/MMBF4093
** Package: TO-92 / SOT-23
** N-Channel Switch
**-------------------------------------------------------
.MODEL MMBF4093 NJF
+ VTO=-7.52682
+ BETA=9.188e-4
+ LAMBDA=0.00011438
+ ALPHA=1.0e-5
+ VK=1.0
+ RD=1
+ RS=1
+ CGD=6.9860e-12
+ CGS=8.1234e-12
+ M=0.36762
+ PB=1.2
+ BETATCE=-0.5
+ VTOTC=-2.50e-3
*--------------------------------------------------------
* Creation: Jun.-25-2014   Rev: 1.0
* Fairchild Semiconductor



*************** Discrete Switch N-Channel Electrical Model *********************
* Product: MMBFJ112 / MMBFJ111 / MMBFJ113
* Package: SOT-23
*-------------------------------------------------------------------------------
.MODEL MMBFJ112 NJF
+ VTO=-1.6800         N=1                   BETA=5.002E-003
+ BETATCE=-0.46       RD=0.334              RS=0.334
+ LAMBDA=0.00398      IS=181.30E-15         ISR=1.7470E-12
+ ALPHA=2.5430E-6     VK=152.20             CGD=6.9920E-12
+ CGS=13.267E-12      M=0.49314             PB=1.4440
+ FC=0.5              KF=16.860E-27         AF=1.1208E-3
+ VTOTC=-2.10E-3
*-------------------------------------------------------------------------------
* Creation: Dec.-24-2004
* Fairchild Semiconductor


*
*****************************************************
*             Model of SMMBFJ310LT1G                *
*                    package: SOT23                 *
*****************************************************
*                                                   *
*                   J-FET Model                     *
*                                                   *
*             EXTERNAL PINS DESCRIPTION:            *
*                                                   *
*                 PIN 1 -> Source                   *
*                 PIN 2 -> Drain                    *
*                 PIN 3 -> Gate                     *
*                                                   *
*                DATE:  Nov. 16, 2018               *
*                                                   *
*                   ON Smiconductor                 *
*****************************************************
* MODELLING FOR SMMBFJ310LT1G

.SUBCKT SMMBFJ310LT1G  2 3 1

.MODEL SMMBFJ310LT1G NJF(VTO=-4.0 BETA=0.00315 LAMBDA=0.014
+ RD=0.828616 RS=0.85723 IS=1e-14 CGS=5.2e-12 CGD=5.2e-12

+ PB=1.06503 FC=0.5 KF=1e-20 AF=0.2
+ N=1.016 M=0.33)

.ENDS SMMBJT310LT1G
* END OF MODELLING


.model LSJ689A PJF(Beta=3.5m Vto=-1.40 Lambda=1.1m Is=0.45f N=1 Rd=111 Rs=40 Cgd=10p Cgs=9p Pb=0.25 Mj=0.3 Fc=0.5 Kf=0.0011f Af=1 Xti=0 Nlev=3 Gdsnoi=2.95 Mfg=Linear_Systems)
.model LSJ689B PJF(Beta=3.0m Vto=-1.75 Lambda=2.0m Is=0.45f N=1 Rd=99 Rs=37 Cgd=10p Cgs=9p Pb=0.25 Mj=0.3 Fc=0.5 Kf=0.0011f AF=1 Xti=0 Nlev=3 Gdsnoi=2.95 Mfg=Linear_Systems)
.model LSJ689C PJF(Beta=2.5m Vto=-3.05 Lambda=2.0m Is=0.45f N=1 Rd=70 Rs=30 Cgd=10p Cgs=9p Pb=0.25 Mj=0.3 Fc=0.5 Kf=0.0011f Af=1 Xti=0 Nlev=3 Gdsnoi=2.95 Mfg=Linear_Systems)
.model LSK489A NJF(Alpha=30u VK=120 ISR=0 Beta=2.2m Vto=-1.13 Lambda=4.3m Is=3f N=1 Rd=11 Rs=30 Cgd=3.19p Cgs=2.92p Mj=0.32 Pb=0.8 Fc=0.5 Kf=0.0009f Af=1 Xti=0 Nlev=3 Gdsnoi=2.15 Mfg=Linear_Systems)
.model LSK489B NJF(Beta=2.1m Vto=-1.80 Lambda=5.7m Is=3f N=1 Rd=11 Rs=40 Cgd=3.19p Cgs=2.92p Mj=0.32 Pb=0.8 Fc=0.5 Kf=0.0009f Af=1 Xti=0 Nlev=3 Gdsnoi=2.15 Mfg=Linear_Systems)
.model LSK489C NJF(Beta=2.1m Vto=-2.78 Lambda=6.3m Is=3f N=1 Rd=11 Rs=55 Cgd=3.19p Cgs=2.92p Mj=0.32 Pb=0.8 Fc=0.5 Kf=0.0009f Af=1 Xti=0 Nlev=3 Gdsnoi=2.15 Mfg=Linear_Systems)
.model 2N5114 PJF(Beta=510.2u Betatce=-.5 Rd=1 Rs=1 Lambda=40m Vto=-8.095 Vtotc=-2.5m Is=461.5f Isr=4.402p N=1 Nr=2 Xti=3 Alpha=32.54u Vk=393.2 Cgd=6.5p M=.2789 Pb=1 Fc=.5 Cgs=9p Kf=32.96E-18 Af=1 mfg=Fairchild)
.model 2N5460 PJF(Is=1.5p Alpha=1e-4 Vk=300 Vto=-3.4 Vtotc=-3m Beta=1.0m Lambda=10m Betatce=-.5 Rd=10 Rs=10 Cgs=5p Cgd=5p Kf=3e-17 mfg=Siliconix)
.model 2N5461 PJF(Is=1.5p Alpha=1e-4 Vk=300 Vto=-4.3 Vtotc=-3m Beta=1.5m Lambda=10m Betatce=-.5 Rd=10 Rs=10 Cgs=5p Cgd=5p Kf=3e-17 mfg=Siliconix)
.model 2N5462 PJF(Is=1.5p Alpha=1e-4 Vk=300 Vto=-5.4 Vtotc=-3m Beta=2.0m Lambda=10m Betatce=-.5 Rd=10 Rs=10 Cgs=5p Cgd=5p Kf=3e-17 mfg=Siliconix)
