* Comparator Model

.SUBCKT comparator non_inv inv out
+PARAMS: VHI=5 VLO=0 TS={GLOBAL_TS*1e-3}

B_COMP out 0 V={IF(V(op)>=0, VHI, VLO)}

B_OPAMP op 0 V={1e10*(V(non_inv)-V(inv))} smoothbsrc=1
+ rcconst = {TS*1e-4}
R_OPAMP op 0 1e7

R_non_inv non_inv 0 1e7
R_inv inv 0 1e7
R_out out 0 1e7

.ENDS comparator


* Comparator Model with Hysteresis

.SUBCKT comparator_hyst non_inv inv out
+PARAMS: VHI=5 VLO=0 VT_HI=0 VT_LO=0 TS={GLOBAL_TS*1e-4}

B_COMP out 0 V={IF((V(non_inv)-V(inv))>VT_HI, VHI, IF((V(non_inv)-V(inv))<VT_LO, VLO, V(buf_out)))} smoothbsrc=1
+ rcconst = TS

R_non_inv non_inv 0 1e6
R_inv inv 0 1e6

* Aux buffer

VDPWR_P dpwr_p 0 {VHI}
VDPWR_N dpwr_n 0 {VLO}

UFF BUF dpwr_p dpwr_n out buf_out DMODEL

.model DMODEL DIG (
+ CLO=0 CHI=0
+ S0RLO=0.001 S0RHI=1000000 S0TSW=TS
+ S0VLO=-100 S0VHI={VLO/2}
+ S1RLO=1000000 S1RHI=0.001 S1TSW=TS
+ S1VLO={VHI/2} S1VHI=100
+ RLOAD=1e4
+ CLOAD=0 )

.ENDS comparator_hyst
