* Sum

.SUBCKT math_prod in1 in2 in3 in4 in5 out
+PARAMS: S1=0 S2=0 S3=0 S4=0 S5=0

B_PROD out 0 V={IF(S1==0, 1, IF(S1==-1, 1/V(in1r), V(in1r)))
+*IF(S2==0, 1, IF(S2==-1, 1/V(in2r), V(in2r)))
+*IF(S3==0, 1, IF(S3==-1, 1/V(in3r), V(in3r)))
+*IF(S4==0, 1, IF(S4==-1, 1/V(in4r), V(in4r)))
+*IF(S5==0, 1, IF(S5==-1, 1/V(in5r), V(in5r)))}
R_PROD out 0 1e7
R1 in1 in1r 1e-5
R1g in1r 0 1e10
R2 in2 in2r 1e-5
R2g in2r 0 1e10
R3 in3 in3r 1e-5
R3g in3r 0 1e10
R4 in4 in4r 1e-5
R4g in4r 0 1e10
R5 in5 in5r 1e-5
R5g in5r 0 1e10

.ENDS math_prod
