* Sum

.SUBCKT math_sum in1 in2 in3 in4 in5 out
+PARAMS: S1=0 S2=0 S3=0 S4=0 S5=0

B_SUM out 0 V={{S1*V(in1r)}+{S2*V(in2r)}+{S3*V(in3r)}+{S4*V(in4r)}+{S5*V(in5r)}}
R_SUM out 0 1e7
R1 in1 in1r 1e-5
R1g in1r 0 1e10
R2 in2 in2r 1e-5
R2g in2r 0 1e10
R3 in3 in3r 1e-5
R3g in3r 0 1e10
R4 in4 in4r 1e-5
R4g in4r 0 1e10
R5 in5 in5r 1e-5
R5g in5r 0 1e10

.ENDS math_sum
