* Measurements with signal outputs

.SUBCKT i_meas_out node_p node_n out

V_MEAS node_p node_n 0
B_SIGNAL out 0 V={I(V_MEAS)}

.ENDS i_meas_out

.SUBCKT v_meas_out node_p node_n out

B_SIGNAL out 0 V={V(node_p, node_n)}

.ENDS v_meas_out
