* Ideal unidirectional switch model

.SUBCKT unidir_switch drain gate source
+PARAMS: R_ON=1e-4 VSW_ON=0 VD_ON=0

* Gate aux resistor
R_auxGATE gate 0 0.1

* Diode
SW_DIODE source mid_node_d IDDIODE OFF CONTROL={IF(V(gate)>0.99, 0, IF(I(V_MEAS_D) > 0, 1, 0))}

B_DROP_D mid_meas_d drain V={IF(V(source, drain)<VD_ON, IF(V(source, drain)>0, V(source, drain), 0), VD_ON)} smoothbsrc=1
+ rcconst = {GLOBAL_TS*1e-10}

V_MEAS_D mid_node_d mid_meas_d 0

*Switch
SW_UNI source mid_node_sw UNIDIR OFF CONTROL={IF(V(gate)>0.99, 1, 0)}

B_DROP_SW mid_meas_sw drain V={IF(V(gate)>0.99, IF(abs(V(drain, source))<VSW_ON, IF(abs(V(drain, source))>0, -V(drain, source), 0), -sgn(V(drain, source))*VSW_ON), 0)} smoothbsrc=1
+ rcconst = {GLOBAL_TS*1e-10}

V_MEAS_SW mid_node_sw mid_meas_sw 0

* Switch Models

.MODEL IDDIODE SWITCH RON={IF(R_ON<1e-5,1e-5,R_ON)} ROFF={1e11*R_ON} ON=0.99 OFF=0.01
.MODEL UNIDIR SWITCH RON={IF(R_ON<1e-5,1e-5,R_ON)} ROFF={1e11*R_ON} VON=0.99 VOFF=0.01

.ENDS unidir_switch
